US05486525
To a solution of 1-phenylsulfonyl-3-(4-methylthiophenyl)indole (8.89 g, 23.4 mmol) in glacial acetic acid (15 mL) was added 30% H2O2 solution (2.45 g, 72 mmol) and the resulting 2-phase mixture was heated at reflux for 30 min during which time it became a solid mass. The reaction mixture was cooled to ambient temperature and diluted with H2O and ethyl acetate and the solid was filtered off. The filtrate layers were separated and the organic phase was washed with saturated aqueous NaHCO3, H2O, and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was triturated with ethyl acetate/ether and the resulting solid was combined with the solid obtained above and recrystallized from ethyl acetate to give 8.15 g of 1-phenylsulfonyl-3-(4-methylphenylsulfonyl)indole. mp 188.9°-189.7° C.

reactant | 1-phenylsulfonyl-3-(4-methylthiophenyl)indole | 23.4 mmol, 8.89 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=C(C=C1)SC | C21H17NO2S2
reactant | H2O2 | 72 mmol, 2.45 g | OO | H2O2
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-phenylsulfonyl-3-(4-methylphenylsulfonyl)indole | 8.15 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)C | C21H17NO4S2
